US04198406
(a) N-Methyl-5-Mercapto-1H-tetrazol-1-ylacetamide
Ethyl 5-mercapto-1H-tetrazol-1-ylacetate (2.0 g) was dissolved in 33% methylamine in ethanol (20 ml) and stood overnight at R.T. The solution was evaporated to dryness in vacuo, the residue dissolved in water (20 ml), adicified and ether extracted (6×50 ml). The extracts were dried and evaporated to give a crystalline solid which was crystallised from ethyl acetate, 0.59 g (32.0%) m.p. 167°-168°; δ[(CD3)2CO] 2.88 (3H,d, J 5 Hz, --NHCH3), 5.15 (2H,s, --CH2CO--), 6.70 (1H,m, --NH--), 12.9 (1H,bs, --SH). Found: C, 27.53; H, 4.17; N, 40.07; S, 18138. C4H7N5OS requires: C, 27.74; H, 4.07; N, 40.44; S, 18.51%.

reactant | Ethyl 5-mercapto-1H-tetrazol-1-ylacetate | 2.0 g | SC1=NN=NN1CC(=O)OCC | C5H8N4O2S
reactant | methylamine | CN | CH5N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-Methyl-5-Mercapto-1H-tetrazol-1-ylacetamide | CNC(CN1N=NN=C1S)=O | C4H7N5OS
